US04994460
1-[3-[2-(4-fluorophenyl)-1,3-dioxolan-2-yl]propyl]-4-(5-fluoro-2-pyrimidinyl)piperazine hydrochloride (IA)
1-[3-[2-(4-fluorophenyl)-1,3-dioxolan-2-yl]propyl]-4-(5-fluoro-2-methylthio-2-pyrimidinyl)piperazine hydrochloride (7.45 g, 0.0.17 mole), triethylamine (3.05 g, 0.034 mole) and 2 teaspoons of Raney Nickel in water were mixed in EtOH (125 mL) and refluxed 18 h. The hot reaction mixture was filtered and the filtrate was concentrated in vacuo to about 1/5 volume. A crude crystalline product was obtained by filtration and its recrystallization from 20-25 mL EtOH gave 1.6 g of solid, m.p. 220°-222° C. This solid was converted to the hydrochloride salt in EtOH using ethanolic HCl. Filtration and drying gave 1.6 g of product, m.p. 242°-244° C.

reactant | 1-[3-[2-(4-fluorophenyl)-1,3-dioxolan-2-yl]propyl]-4-(5-fluoro-2-methylthio-2-pyrimidinyl)piperazine hydrochloride | 7.45 g | Cl.FC1=CC=C(C=C1)C1(OCCO1)CCCN1CCN(CC1)C1(NC=C(C=N1)F)SC
reactant | triethylamine | 0.034 mole, 3.05 g | C(C)N(CC)CC | C6H15N
catalyst | Raney Nickel | 2 teaspoons | [Ni] | Ni
solvent | water | O | H2O
solvent | EtOH | 125 mL | CCO | C2H6O
product | 1-[3-[2-(4-fluorophenyl)-1,3-dioxolan-2-yl]propyl]-4-(5-fluoro-2-pyrimidinyl)piperazine hydrochloride | 1.6 g | Cl.FC1=CC=C(C=C1)C1(OCCO1)CCCN1CCN(CC1)C1=NC=C(C=N1)F | InChI=1S/C20H24F2N4O2.ClH/c21-17-4-2-16(3-5-17)20(27-12-13-28-20)6-1-7-25-8-10-26(11-9-25)19-23-14-18(22)15-24-19;/h2-5,14-15H,1,6-13H2;1H
